US07452880B2
Step 3. Preparation of 3-(2-chlorophenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine
To a solution of (2-chlorophenyl)-(4-chloro-2-methylsulfanylpyrimidin-5-yl)-methanone (5.3 g, 17.72 mmol) in ethanol (25 mL) was added anhydrous hydrazine (1.12 ml, 2 eq) dropwise with stirring. The reaction was then stirred for 20 minutes, after which it was cooled in an ice bath and the precipitated solid was removed by filtration. The solid was rinsed with cold ethanol. The filtrate was concentrated to provide a crude oil, which was diluted with ethyl acetate (80 mL), tetrahydrofuran (10 mL), methanol (5 mL), and water (80 mL). This mixture was partitioned and the layers separated. The organic layer was collected and dried over magnesium sulfate, filtered and concentrated to give the title compound as a yellow powder (2.81 g, (M+H)+=277).

reactant | (2-chlorophenyl)-(4-chloro-2-methylsulfanylpyrimidin-5-yl)-methanone | 17.72 mmol, 5.3 g | ClC1=C(C=CC=C1)C(=O)C=1C(=NC(=NC1)SC)Cl | C12H8Cl2N2OS
reactant | hydrazine | 1.12 ml, 2 eq | NN | H4N2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | 3-(2-chlorophenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 2.81 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC=C21)SC | C12H9ClN4S
